US06713482B2
(E)-2-(3-Chlorostyryl)-1-(2-pyridyl)-1H-benzimidazole hydrochloride
Free base of the titled compound was prepared from N-(2-pyridyl)-o-phenylenediamine and (E)-3-Chlorocinnamoyl chloride (Amino, Y.; Kawada, K.; Toi, K.; Kumashiro, I.; Fukushima, K. Chem. Pharm. Bull, 1988, 36, 4426) according to the preparation of (E)-1-(2-pyridyl)-2-styryl-H-benzimidazole (Example 1, method A). The free base was dissolved with a 10% methanol solution of hydrogen chloride (5 ml). Concentration and recrystallization from ethyl acetate/ethanol yielded the titled compound. MW: 368.27; mp:>230° C.; 1H-NMR (DMSO) δ: 8.85-8.81 (1H, m), 8.31-8.22 (1H, m), 8.20 (1H, d, J=16.1 Hz), 7.90-7.81 (3H, m), 7.78-7.72 (1H, m), 7.68-7.43 (6H, m), 7.33 (1H, d, J=16.1 Hz).

reactant | N-(2-pyridyl)-o-phenylenediamine | N1=C(C=CC=C1)NC1=C(C=CC=C1)N | C11H11N3
reactant | (E)-3-Chlorocinnamoyl chloride | ClC=1C=C(/C=C/C(=O)Cl)C=CC1 | C9H6Cl2O
reactant | hydrogen chloride | 5 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | (E)-2-(3-Chlorostyryl)-1-(2-pyridyl)-1H-benzimidazole hydrochloride | Cl.ClC=1C=C(/C=C/C2=NC3=C(N2C2=NC=CC=C2)C=CC=C3)C=CC1 | InChI=1S/C20H14ClN3.ClH/c21-16-7-5-6-15(14-16)11-12-20-23-17-8-1-2-9-18(17)24(20)19-10-3-4-13-22-19;/h1-14H;1H/b12-11+;
